US07935786B2
Hydrolysis Kinetics in Leucine Aminopeptidase
The degradation of H-Gly-Gly-Thr-Tyr-Ser-Cys-His-Phe-Gly-Pro-Leu-Thr-Trp-Val-Cys-Lys-Pro-Gln-Gly-Gly-OH (SEQ ID NO: 117) (˜4.8×10−5 M) in 50 mM phosphate buffer solutions of pH 7.4 containing carboxypeptidase A (1 U/ml) was studied as described above. A half-life of more than 50 hours was estimated for the degradation.

reactant | H-Gly-Gly-Thr-Tyr-Ser-Cys-His-Phe-Gly-Pro-Leu-Thr-Trp-Val-Cys-Lys-Pro-Gln-Gly-Gly-OH | NCC(=O)NCC(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CS)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CS)C(=O)N[C@@H](CCCCN)C(=O)N2[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)NCC(=O)O)CCC2)CCC1 | C94H135N25O26S2
reactant | phosphate | 50 mM | P(=O)([O-])([O-])[O-]
product | Leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
